Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Acute left weakness/numbness and difficulty speaking
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo man with history of active alcohol use 
disorder and cocaine use who presents with acute left 
weakness/numbness and difficulty speaking with subsequent 
significant improvement.
 
Mr. ___ slept well last night and woke up this morning 
feeling well. Today, approx. 1255, he was dropping off packages 
in ___. While in the elevator, he was holding two 
packages with both hands, and it felt like one dropped from his 
left hand. He went to catch it and he couldn't bend down to pick 
it up (it was on his left side). His left arm and leg wouldn't 
move at all. He bent down on right knee to pick up package but 
couldn't use his left hand to pick up the package and had no 
movement of his left hand.  This was associated with tingling 
over left face/arm/leg followed seconds to 1.5 min later by lack 
of sensation over this area. He also noted saliva dripping from 
left corner of mouth. 

The elevator door then opened, and someone said "are you all 
right?" He couldn't answer. He endorses difficulty finding the 
words and difficulty forming words. He could make some sounds 
but couldn't speak. He was able to understand what people said 
to him. He couldn't stand up from that position bended on right 
knee. Bystander helped him up and out of the elevator. He was 
seen by physicians who happened to be nearby, and was given 
324mg ASA. EMS was called and symptoms resolved within 15 
minutes after onset. By the time EMS arrived, weakness and 
numbness, speech had dramatically improved.  

 
Past Medical History:
HTN - was prescribed a medication but is noncompliant. 
Does not regularly follow with physicians.
 
Social History:
___
Family History:
Mother HTN
Father deceased, thinks he may have had cancer. Died in early 
___. Had stroke, details unknown. 
sister HTN
brother HTN
Mat cousin with stroke, unknown details.
No fam history of DVT/PE 
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals:  T: 98 HR: ___ BP: 148-160/77-100 RR: ___ SaO2: 99% 
RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Mildly inattentive. With MOYB he 
interposes ___ and ___, then says ___, ___, 
___, then loses track to the task. Attentive, able to name ___ 
backward without difficulty. Speech is fluent with normal 
grammar and syntax. No paraphasic errors. Naming intact to low 
frequency words. Repetition intact. Comprehension intact to 
complex, cross-body commands. Normal prosody. 

-Cranial Nerves: PERRL 2.5->2. VFF to confrontation. EOMI with 
___ beats bilateral end-gaze nystagmus. Facial sensation intact 
to light touch. Face symmetric at rest and with activation. 
Hearing intact to conversation. Palate elevates symmetrically. 
___ strength in trapezii bilaterally. Tongue protrudes in 
midline and moves briskly to each side. No dysarthria. 

- Motor:  Normal bulk and tone. Sight left pronation. No tremor 
nor asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc         
L  4+   5   4+  4+  4+ ___   5    5  5                  
R  5    ___   ___  5   5    5  5                 

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  2  2    2    2   2                        
 R  2  2    2    2   2                           
Plantar response was flexor bilaterally.

-Sensory: Proprioception decreased to the smallest movements L 
fifth finger, intact left seond digit. Some pseudoathetosis LUE. 
 Intact to LT throughout, mild decr PP LUE. 

- Coordination: No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements.

- Gait: Normal initiation. Narrow base. Short strides with LLE, 
slight dragging L foot. 

DISCHARGE EXAM:
===============
VS: Temp: 98.3 (Tm 98.3), BP: 152/90 (124-152/77-90), HR: 79
(64-79), RR: 18, O2 sat: 97% (97-99), O2 delivery: RA  
Exam
General: Awake, cooperative, NAD. Getting TTE done. 
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive, able to name ___ backward 
without difficulty. Speech is fluent with normal grammar and 
syntax. No paraphasic errors. Naming intact to low frequency 
words. Normal prosody. 

-Cranial Nerves: PERRL 2.5->2. VFF to confrontation. EOMI with 
___ beats bilateral end-gaze nystagmus. Facial sensation intact 
to light touch. Face symmetric at rest and with activation. 
Hearing intact to conversation. Palate elevates symmetrically. 
___ strength in trapezii bilaterally. Tongue protrudes in 
midline and moves briskly to each side. No dysarthria. 

- Motor:  Normal bulk and tone. Sight left pronation. No tremor 
nor asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc         
L  4+   5   4+  4+  4+ ___   5    5  5                  
R  5    ___   ___  5   5    5  5                 

-DTRs:
   Bi Tri ___ Pat Ach 
 L  2  2    2    2   2                        
 R  2  2    2    2   2  
                         
Plantar response was flexor bilaterally.

-Sensory: Proprioception decreased to the smallest movements of 
left fifth finger, intact left seond digit. Intact to LT 
throughout, mild decrease to PP LUE. 

- Coordination: No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements. 

- Gait: Normal initiation. Narrow base. Short strides with LLE, 
mild dragging L foot. 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:00PM URINE  HOURS-RANDOM
___ 03:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS* amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 03:00PM URINE  RBC-2 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 03:00PM URINE  HYALINE-1*
___ 03:00PM URINE  MUCOUS-RARE*
___ 02:16PM   %HbA1c-5.6 eAG-114
___ 02:11PM   COMMENTS-GREEN TOP
___ 02:11PM   CREAT-1.7*
___ 02:11PM   estGFR-Using this
___ 01:50PM   GLUCOSE-102* UREA N-22* CREAT-1.7* SODIUM-139 
POTASSIUM-4.8 CHLORIDE-105 TOTAL CO2-22 ANION GAP-12
___ 01:50PM   estGFR-Using this
___ 01:50PM   ALT(SGPT)-17 AST(SGOT)-24 ALK PHOS-123 TOT 
BILI-0.3
___ 01:50PM   cTropnT-<0.01
___ 01:50PM   ALBUMIN-4.5 CALCIUM-9.4 PHOSPHATE-3.0 
MAGNESIUM-2.1 CHOLEST-203*
___ 01:50PM   TRIGLYCER-144 HDL CHOL-67 CHOL/HDL-3.0 
LDL(CALC)-107 ___
___ 01:50PM   TSH-0.34
___ 01:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 01:50PM   WBC-5.8 RBC-5.15 HGB-14.7 HCT-46.0 MCV-89 
MCH-28.5 MCHC-32.0 RDW-13.2 RDWSD-43.0
___ 01:50PM   NEUTS-54.0 ___ MONOS-12.0 EOS-1.7 
BASOS-0.5 IM ___ AbsNeut-3.15 AbsLymp-1.84 AbsMono-0.70 
AbsEos-0.10 AbsBaso-0.03
___ 01:50PM   PLT COUNT-235
___ 01:50PM   ___ PTT-26.3 ___

DISCHARGE LABS:
===============
___ 05:45AM BLOOD WBC-5.0 RBC-4.80 Hgb-14.1 Hct-43.2 MCV-90 
MCH-29.4 MCHC-32.6 RDW-13.2 RDWSD-43.2 Plt ___
___ 05:45AM BLOOD Glucose-102* UreaN-26* Creat-1.7* Na-138 
K-4.6 Cl-103 HCO3-19* AnGap-16
___ 05:45AM BLOOD ALT-17 AST-20 LD(LDH)-186 AlkPhos-104 
TotBili-0.2
___ 05:45AM BLOOD Albumin-4.4 Calcium-9.4 Phos-4.3 Mg-2.0
___ 02:16PM BLOOD %HbA1c-5.6 eAG-114
___ 01:50PM BLOOD Triglyc-144 HDL-67 CHOL/HD-3.0 
LDLcalc-107 ___
___ 01:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

IMAGING:
========
CTA HEAD/NECK ___:
1. No evidence of an acute intracranial abnormality. 
2. The major vessels of the neck, circle of ___, and their 
principal 
intracranial branches appear normal without flow limiting 
stenosis, occlusion, or aneurysm formation. Final read pending 
reformats. 

CHEST X-RAY ___:
  
The lungs are clear. There is no consolidation, effusion, or 
edema. Cardiac silhouette is mildly enlarged. No acute osseous 
abnormalities.  Chronic deformity of the distal left clavicle, 
likely prior fracture. 
  
IMPRESSION:  
  
No acute cardiopulmonary process.  Cardiomegaly. 

MRI HEAD ___:  
1. Subacute right prefrontal gyrus and corona radiata infarcts. 
2. Susceptibility artifact in the right thalamus probably 
reflects chronic 
sequela of prior hemorrhagic infarct. 

TTE ___:

The left atrial volume index is SEVERELY increased. There is no 
evidence of an atrial septal defect or patent foramen ovale by 
2D/color Doppler or agitated saline at rest and with maneuvers. 
The estimated right atrial pressure is ___ mmHg. There is normal 
left ventricular wall thickness with a mildly increased/dilated 
cavity. There is mild regional left ventricular systolic 
dysfunction with inferior near akinesis (see schematic) and mild 
global hypokinesis of the remaining segments. No thrombus or 
mass
is seen in the left ventricle. Quantitative biplane left 
ventricular ejection fraction is 33 %. Left ventricular cardiac 
index is normal (>2.5 L/min/m2). There is no resting left 
ventricular outflow tract
gradient. Normal right ventricular cavity size with focal 
hypokinesis of the apical free wall. Tricuspid annular plane 
systolic excursion (TAPSE) is normal. The aortic sinus diameter 
is normal for gender with normal ascending aorta diameter for 
gender. The aortic arch diameter is normal with a normal 
descending aorta diameter. There is no evidence for an aortic 
arch coarctation. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aortic  regurgitation. The mitral valve leaflets are mildly 
thickened with no mitral valve prolapse. There is moderate [2+] 
mitral regurgitation. The tricuspid valve leaflets appear 
structurally normal. There is physiologic tricuspid 
regurgitation. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

IMPRESSION: Mild left ventricular cavity dilation with mild 
regional and global systolic dysfunction most c/w a diffuse 
process (e.g. toxin, metabolic or multivessel CAD). Moderate 
mitral regurgitation. Mild pulmonary artery systolic 
hypertension. Normal right ventricular cavity size with distal 
free wall hypokinesis.

 
Brief Hospital Course:
PATIENT SUMMARY:
================
Mr. ___ is a ___ year old man with active alcohol use 
disorder and cocaine use who presented with acute onset left 
sided weakness/numbness and difficulty speaking with subsequent 
improvement found to have right prefrontal gyrus and corona 
radiata infarcts. 

Etiology likely cardioembolic in the setting of active cocaine 
use disorder and global systolic dysfunction. Atheroembolic and 
vasospasm due to cocaine use are also both possible. 

The patient underwent TTE this admission which showed mild left 
ventricular cavity dilation with mild regional and global 
systolic dysfunction most c/w a diffuse process (e.g. toxin, 
metabolic or multivessel CAD). Moderate mitral regurgitation. 
Mild pulmonary artery systolic hypertension. Normal right 
ventricular cavity size with distal free wall hypokinesis. 

LDL was 120, A1c 5.6. The patient was started on aspirin 81 mg 
daily, atorvastatin 80 mg daily, and lisinopril 5 mg daily. The 
patient was also provided a ZioPatch for extended cardiac 
monitoring to assess for occult atrial fibrillation. 

The patient was seen by our addition psychiatry team but refused 
therapy or resources at the present time.

He was also evaluated by our occupational therapist who 
recommended outpatient OT.

TRANSITIONAL ISSUES:
====================
# Blood pressure goal is normotension. Lower slowly over next 
few days. He was started on lisinopril 5 mg daily while in 
house. This can be further uptitrated as an outpatient. 

# Patient with creatinine of 1.7 this admission. Unclear if this 
is acute or chronic. Please continue to monitor for progression 
of CKD.

# Please consider addition of beta blocker in this patient given 
reduced EF.

# Please consider outpatient TEE to assess for PFO.

# Outpatient occupational therapy 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
=
=
=
=
=
=
=
================================================================
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 120) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not -> patient at baseline 
functional status
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*3 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*6 
3.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*3 
4.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic Stroke
Acute kidney injury
Substance use disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

 You were hospitalized due to symptoms of left sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 
 -High cholesterol
 -Hypertension
 -Drug use 
 -Drinking a lot of alcohol 
 
We are changing your medications as follows: 
 
 -START aspirin 81mg daily
 -START Atorvastatin 80mg every night
 -START lisinopril 
 -Avoid illegal substances
  
 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  
 
Followup Instructions:
___